US09421209B2
Intermediate 33: 1-(5-Bromo-2-hydroxyphenyl)-2-(3-fluorophenyl)ethanone
3-Fluorophenylacetic acid (4.90 g, 32.07 mmoles) was dissolved in 50 ml dichloromethane. To this mixture, oxalylchloride (3.5 ml, 40.08 mmoles) and DMF (3 drops) were added at 0° C. and stirred for 30 min. The solvent was evaporated and dissolved in 50 ml dichloromethane. To this mixture, 4-bromoanisole (5.0 g, 26.72 mmoles) was added and cooled to 0° C. At 0° C. AlCl3 (5.3 g, 40.08 mmoles) was added and the reaction mixture was warmed to RT and stirred for 12 h. The reaction mixture was quenched by the addition of 2N HCl, extracted with ethyl acetate, dried over sodium sulphate and concentrated. The crude product was purified by column chromatography with ethyl acetate:petroleum ether to afford the title compound as off-white solid (6.6 g, 80% yield. 1H-NMR (δ ppm, CDCl3, 400 MHz): δ 12.02 (s, 1H), 7.94 (d, J=2.4 Hz, 1H), 7.57 (dd, J=8.9, 2.4.1 Hz, 1H), 7.36 (m, 1H), 7.04 (m, 3H), 6.90 (d, J=8.9 Hz, 1H), 4.28 (s, 2H).

reactant | 3-Fluorophenylacetic acid | 32.07 mmoles, 4.90 g | FC=1C=C(C=CC1)CC(=O)O | C8H7FO2
reactant | oxalylchloride | 40.08 mmoles, 3.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-bromoanisole | 26.72 mmoles, 5.0 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | AlCl3 | 40.08 mmoles, 5.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 1-(5-Bromo-2-hydroxyphenyl)-2-(3-fluorophenyl)ethanone | 80% yield | BrC=1C=CC(=C(C1)C(CC1=CC(=CC=C1)F)=O)O | C14H10BrFO2
